US06551682B1
(9) Production of 10-[6-(2,2,3,3,4,4,5,5-octafluoropentyloxy)-2-pyridylazo]-9-phenanthrol (No. L65)
Next, a reaction flask was loaded with acetic acid (54 ml) and 9,10-phenanthrenequinone (3.8 g), and the temperature was raised to 110° C. with stirring to dissolve 9,10-phenanthrenequinone. To this mixture, 2-hydrazino-6-(2,2,3,3,4,4,5,5-octafluoropentyloxy)pyridine (10 g) was added in 30 minutes. After stirring at 110° C. for one hour, the reaction mixture was filtrated. Crystals were stirred in methanol (100 ml) for 30 minutes, filtrated and dried to give intended crystals (5.2 g).

reactant | 9,10-phenanthrenequinone | 3.8 g | C1=CC=CC=2C3=CC=CC=C3C(C(C12)=O)=O | C14H8O2
reactant | 2-hydrazino-6-(2,2,3,3,4,4,5,5-octafluoropentyloxy)pyridine | 10 g | N(N)C1=NC(=CC=C1)OCC(C(C(C(F)F)(F)F)(F)F)(F)F | C10H9F8N3O
solvent | acetic acid | 54 ml | C(C)(=O)O | C2H4O2
product | 10-[6-(2,2,3,3,4,4,5,5-octafluoropentyloxy)-2-pyridylazo]-9-phenanthrol | FC(COC1=CC=CC(=N1)N=NC1=C(C2=CC=CC=C2C=2C=CC=CC12)O)(C(C(C(F)F)(F)F)(F)F)F | C24H15F8N3O2
